US05399561
4,4-dimethyl-6-trimethylsilylethynyl-2-oxo-chroman
The procedure used is substantially in accordance with (Journal of Organic Chemistry, Vol. 46, No. 11, (1981) p 2280-81). To a solution of 2.5 g (9.8 mmol) of 4,4-dimethyl-6-bromo-2-oxo-chroman and 0.087 g (0.3317 mmol) of triphenylphosphine in 36 ml of triethylamine under argon was added 1.74 g (2.5 ml, 17.7 mmol) of trimethylsilylacetylene and 0.027 g (0.12 mmol) of palladium(II) acetate. The mixture was refluxed for 20 hours then cooled to room temperature and filtered. The solvent removed in-vacuo and the resulting residue was purified using flash chromatography (SiO2 ; 5% ethyl acetate in hexanes) to give the title compound as a yellow oil.

reactant | 4,4-dimethyl-6-bromo-2-oxo-chroman | 9.8 mmol, 2.5 g | CC1(CC(OC2=CC=C(C=C12)Br)=O)C | C11H11BrO2
reactant | triphenylphosphine | 0.3317 mmol, 0.087 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylacetylene | 17.7 mmol, 2.5 ml, 1.74 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 36 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.12 mmol, 0.027 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4,4-dimethyl-6-trimethylsilylethynyl-2-oxo-chroman | CC1(CC(OC2=CC=C(C=C12)C#C[Si](C)(C)C)=O)C | C16H20O2Si
